US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.64 g) and (4-isopropylphenyl){[4-(2,2,2-trifluoroethoxy)phenyl]methyl}amine (1.0 g) as starting materials, N-(4-isopropylphenyl)-7-methoxy-N-{[4-(2,2,2-trifluoroethoxy)phenyl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.58 g) was obtained. melting point: 125-127° C.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.64 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | (4-isopropylphenyl){[4-(2,2,2-trifluoroethoxy)phenyl]methyl}amine | 1.0 g | C(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)OCC(F)(F)F | C18H20F3NO
product | N-(4-isopropylphenyl)-7-methoxy-N-{[4-(2,2,2-trifluoroethoxy)phenyl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.58 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC1=CC=C(C=C1)OCC(F)(F)F | C30H32F3NO3
